US06713455B2
Step A: 3-Bromo-5-cyanopyridine
5-Bromo-3-pyridinylcarboxamide (10 g, 49.7 mmol) in phosphorus oxychloride (25 mL) was warmed to reflux for 18 h, allowed to cool to 25° C., concentrated in vacuo and carefully treated with satd. aqueous sodium bicarbonate (˜500 mL) until neutralized. The reaction mixture was diluted with CH2Cl2 (200 mL), stirred for 4 h, and the layers were separated. The aqueous layer was washed with CH2Cl2 (2×100 mL), and the organic layers were combined and dried (MgSO4). The resulting solution was concentrated in vacuo to afford the title compound (6.35 g, 70%) as a white solid. MS 184 (M+H)+.

reactant | 5-Bromo-3-pyridinylcarboxamide | 49.7 mmol, 10 g | BrC=1C=C(C=NC1)C(=O)N | C6H5BrN2O
solvent | phosphorus oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Bromo-5-cyanopyridine | 6.35 g, 70% | BrC=1C=NC=C(C1)C#N | C6H3BrN2
